US07399867B2
Dissolve 6-hydroxy-1,3-benzoxathiol-2-one (16.8 g, 0.1 mol) in THF (1650 mL) and cool to 0° C. Sequentially add benzyl alcohol (16.2 g, 0.15 mol), triphenylphosphine (PPh3, 39.3 g, 0.15 mol), and diisopropylazodicarboxylate (30.3 g, 0.15 mol). Stir the reaction mixture at room temperature overnight. Add water (1500 mL) and extract the aqueous layer with EtOAc (3×1500 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 10-25% of EtOAc/hexane) to give 24.33 g of 6-benzyloxy-benzo[1,3]oxathiol-2-one (94%).

reactant | 6-hydroxy-1,3-benzoxathiol-2-one | 0.1 mol, 16.8 g | OC1=CC2=C(SC(O2)=O)C=C1 | C7H4O3S
reactant | benzyl alcohol | 0.15 mol, 16.2 g | C(C1=CC=CC=C1)O | C7H8O
reactant | triphenylphosphine | 0.15 mol, 39.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.15 mol, 30.3 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1650 mL | C1CCOC1 | C4H8O
product | 6-benzyloxy-benzo[1,3]oxathiol-2-one | 24.33 g, 94% | C(C1=CC=CC=C1)OC1=CC2=C(SC(O2)=O)C=C1 | C14H10O3S
